US04963566
8-Hydroxymethyl-1-ethyl-4-oxo-1,2,3,4-tetrahydroquinoline (1.44 g) was dissolved in dimethyl formamide (2 ml). Imidazole (1.57 g) and t-butyl dimethylsilyl chloride (1.16 g) were added to the solution and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate-toluene. After the extract was dried over anhydrous magnesium sulfate, the solvent was distilled off. The resulting residue was purified by silica gel column chromatography [eluent: n-hexane-ethyl acetate (3: 1) ] to give 4-oxo-8-t-butyldimethylsilyloxymethyl- 1-ethyl-1,2,3,4-tetrahydroquinoline (2.18 g).

reactant | 8-Hydroxymethyl-1-ethyl-4-oxo-1,2,3,4-tetrahydroquinoline | 1.44 g | OCC=1C=CC=C2C(CCN(C12)CC)=O | C12H15NO2
reactant | Imidazole | 1.57 g | N1C=NC=C1 | C3H4N2
reactant | t-butyl dimethylsilyl chloride | 1.16 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Water | O | H2O
solvent | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-oxo-8-t-butyldimethylsilyloxymethyl- 1-ethyl-1,2,3,4-tetrahydroquinoline | 2.18 g | O=C1CCN(C2=C(C=CC=C12)CO[Si](C)(C)C(C)(C)C)CC | C18H29NO2Si
